US06660751B1
4-Chloro 2,5-dimethylbenzenesulfonic Acid 2-(isopropyl-(4-chloro 2,5-dimethylbenzenesulfonyl)-amino)-ethyl Ester (D8)
The title compound was prepared from 2-isopropylamino ethanol and 4-chloro 2,5-dimethylphenylsulfonylchloride using the method described in Description 1.

reactant | 2-isopropylamino ethanol | C(C)(C)NCCO | C5H13NO
reactant | 4-chloro 2,5-dimethylphenylsulfonylchloride | ClC1=CC(=C(C=C1C)S(=O)(=O)Cl)C | C8H8Cl2O2S
product | 4-Chloro 2,5-dimethylbenzenesulfonic Acid 2-(isopropyl-(4-chloro 2,5-dimethylbenzenesulfonyl)-amino)-ethyl Ester | C(C)(C)N(CCOS(=O)(=O)C1=C(C=C(C(=C1)C)Cl)C)S(=O)(=O)C1=C(C=C(C(=C1)C)Cl)C | C21H27Cl2NO5S2
